US05326681
18.3 g of 2-amino-3-cyano-4-phenylpyrrole (compound a), readily obtained by condensation of 2-aminoacetophenone hydrochloride and malononitrile in the presence of an alkali, and 25.3 g of ethoxyethylidene diethyl malonate were dispersed in 300 ml of ethanol, and 22.0 ml of a solution of sodium methylate in methanol was added to the resulting dispersion, followed by heating under reflux for 5 hours. Thereafter, the reaction mixture was allowed to cool, and ethyl acetate was added thereto. After washing with water, the organic solvent was concentrated to precipitate crystals, which were then collected by filtration to obtain 11.6 g of compound b. Subsequently, 50 ml of fine oxocol 1600 and 2.0 g of titanium isopropoxide (Ti(O-i-Pr)4) were added to the compound b, and the resulting mixture was heated for 6 hours at an oil-bath temperature of 130° C. to 140° C. After being allowed to cool, the reaction mixture was purified by silica gel chromatography (hexane/ethyl acetate=1/1) to obtain 14.7 g of coupler (III)-1 in the form of lemon yellow oily matter.

reactant | 2-aminoacetophenone hydrochloride | Cl.NCC(=O)C1=CC=CC=C1
reactant | malononitrile | C(CC#N)#N | C3H2N2
product | 2-amino-3-cyano-4-phenylpyrrole | 18.3 g | NC=1NC=C(C1C#N)C1=CC=CC=C1 | C11H9N3
